US07863293B2
A suspension of (2,3-dimethyl-5-trifluoromethyl-pyridin-2-yl)-methanol (0.300 g, 1.57 mmol)) and activated MnO2 (1.36 g, 15.6 mmol) in CH2Cl2 (10 mL) was stirred at room temperature overnight. After that period of time the suspension was filtered through a celite cake. the solvent was removed from the filtrate, and the residue was purified on silica gel column (CH2Cl2) to afford 3-methyl-5-trifluoromethyl-pyridine-2-carbaldehyde as a pale yellow liquid (0.180 g, 61%). 1H NMR (CD3Cl) δ 2.73 (s, 3H), 7.87 (s, 1H), 8.90 (s, 1H), 10.23 (s, 1H).

reactant | (2,3-dimethyl-5-trifluoromethyl-pyridin-2-yl)-methanol | 1.57 mmol, 0.300 g | CC1(NC=C(C=C1C)C(F)(F)F)CO | C9H12F3NO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 15.6 mmol, 1.36 g | O=[Mn]=O
product | 3-methyl-5-trifluoromethyl-pyridine-2-carbaldehyde | 0.180 g, 61% | CC=1C(=NC=C(C1)C(F)(F)F)C=O | C8H6F3NO
